US07446118B2
3-(1H-Indol-6-yl)-3-pyridin-3-yl-propionic acid ethyl ester CLVIII was prepared from 3-(1H-indol-6-yl)-3-pyridin-3-yl-acrylic acid ethyl ester using the procedure described above for preparation of 3-(3-Cyano-1H-Indol-4-yl)-3-phenyl-propionic acid ethyl ester LIX (Example 14).

reactant | 3-(1H-indol-6-yl)-3-pyridin-3-yl-acrylic acid ethyl ester | C(C)OC(C=C(C=1C=NC=CC1)C1=CC=C2C=CNC2=C1)=O | C18H16N2O2
reactant | 3-(3-Cyano-1H-Indol-4-yl)-3-phenyl-propionic acid ethyl ester | C(C)OC(CC(C1=CC=CC=C1)C1=C2C(=CNC2=CC=C1)C#N)=O | C20H18N2O2
product | 3-(1H-Indol-6-yl)-3-pyridin-3-yl-propionic acid ethyl ester | C(C)OC(CC(C=1C=NC=CC1)C1=CC=C2C=CNC2=C1)=O | C18H18N2O2
